US07544835B2
d) Ethyl 3-(1-carboxymethyl-1H-indol-3-yl)-2-isopropoxypropionate
0.75 g of Ethyl 3-(1H-indol-3-yl)-2-isopropoxypropionate was dissolved in 10 ml of N,N-dimethylformamide, and 0.12 g of 60% sodium hydride was added under ice-cooling. The reaction mixture was stirred at room temperature for 30 minutes, 0.53 ml of t-butyl bromoacetate was added, and stirring was continued at room temperature for 16 hours. The reaction solution was cooled with ice, treated with water and ammonium chloride solution, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and evaporated. The residue was subjected to silica gel column chromatography, and the fraction eluted with 10% ethyl acetate-hexane was evaporated, and the residue was dissolved in 15 ml of dichloromethane. 3 ml of Trifluoroacetic acid was added under ice-cooling, and the mixture was stirred at 0° C. for 7 hours. The reaction solution was diluted with toluene, and the solvent was evaporated. The residue was subjected to silica gel column chromatography (33% ethyl acetate-hexane), to give 0.3 g of the title compound.

reactant | Ethyl 3-(1H-indol-3-yl)-2-isopropoxypropionate | 0.75 g | N1C=C(C2=CC=CC=C12)CC(C(=O)OCC)OC(C)C | C16H21NO3
reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | t-butyl bromoacetate | 0.53 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Ethyl 3-(1-carboxymethyl-1H-indol-3-yl)-2-isopropoxypropionate | 0.3 g | C(=O)(O)CN1C=C(C2=CC=CC=C12)CC(C(=O)OCC)OC(C)C | C18H23NO5
